* C:\Users\capta\Downloads\g_amp\g_amp.asc
* Generated by LTspice 24.1.4 for Windows.
X§U1 N005 N002 VCC+ VCC- N003 tl072
V1 VCC+ 0 12V
V2 VCC- 0 -12V
C1 N005 N004 100n
R1 N003 N002 91k
R2 0 N002 10k
V3 N004 0 SINE(0 100m 50)
X§U2 N003 N001 VCC+ VCC- N001 tl072
R3 N005 0 1000k
.include tl072.lib
.tran 0.5
.backanno
.end
